US07754737B2
Step 3. 4-bromo-2-(trimethylsilyl)benzothiophene
A stirred solution of ˜80% pure 4-bromobenzothiophene (580 mg, 2.7 mmol) and chlorotrimethylsilane (0.70 mL, 5.4 mmol) in dry THF (10 mL) was cooled to −70° C. and 2 M LDA in 1:1 THF/heptane (1.35 mL, 5.4 mmol) was added dropwise over 2 min. The mixture was stirred at −70° C. for 1.5 h and diluted with ether (80 mL) and 5% aq HCl (20 mL). The organic layer was separated, washed with sat'd aq NaHCO3 (20 mL) and dried over MgSO4. Removal of the solvent left 4-bromo-2-(trimethylsilyl)benzothiophene (740 mg, 95%) as an amber oil.

reactant | 4-bromobenzothiophene | 2.7 mmol, 580 mg | BrC1=CC=CC2=C1C=CS2 | C8H5BrS
reactant | chlorotrimethylsilane | 5.4 mmol, 0.70 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | LDA | 2 M | [Li+].CC(C)[N-]C(C)C
reactant | THF heptane | 5.4 mmol, 1.35 mL | C1CCOC1.CCCCCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | 80 mL | CCOCC | C4H10O
solvent | HCl | 20 mL | Cl | ClH
product | 4-bromo-2-(trimethylsilyl)benzothiophene | BrC1=CC=CC2=C1C=C(S2)[Si](C)(C)C | C11H13BrSSi
